US04159380
(b) 4-Chloro-5-[[1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyridine, hydrochloride (1:1)
In a three necked flask (250 ml.), fitted with a stirrer, reflux condenser and gas inlet tube are introduced 24.4 g. of sodium hydroxide (0.61 mol.) and 23 ml. of water. While passing nitrogen through the flask, the solution is cooled to 45° and then are added 6.43 g. of 1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethanol (0.025 mol.), [prepared according to J. Med. Chem., Vol. 12, 784 (1969)], 0.43 g. of benzyltrimethylammonium chloride and 25 ml. of tetrahydrofuran. To the mixture, which is warmed to 50°, a solution of 6.1 g. of 4-chloro-5-chloromethyl-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]-pyridine (0.025 mol.) in 10 ml. of tetrahydrofuran is added from a prewarmed dropping funnel within 3 minutes. The mixture is stirred vigorously for 3 hours at 60° using a water bath. Then the warm mixture is transferred into a separating funnel, the lower aqueous sodium hydroxide is extracted with 10 ml. of tetrahydrofuran. The combined tetrahydrofuran layers are dried by means of sodium sulfate and after the solvent has been removed the residual oil is extracted with ether, treated with charcoal and filtered. To the solution of free base are added dropwise 5.9 ml. of ethereal hydrochloric acid (30.9%). The precipitated 4-chloro-5[[1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]- 1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyridine, hydrochloride is filtered off, dried in the vacuum desiccator and recrystallized from acetonitrile, m.p. 200°-201°; yield 5.67 g. (45%).

reactant | sodium hydroxide | 0.61 mol | [OH-].[Na+]
reactant | water | O | H2O
reactant | 1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethanol | 0.025 mol, 0.43 g | ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)O | C11H10Cl2N2O
reactant | 4-chloro-5-chloromethyl-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]-pyridine | 0.025 mol | ClC1=C2C(=NC=C1CCl)N(N=C2C)CC | C10H11Cl2N3
catalyst | benzyltrimethylammonium chloride | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-Chloro-5-[[1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyridine, hydrochloride | Cl.ClC1=C2C(=NC=C1COC(CN1C=NC=C1)C1=C(C=C(C=C1)Cl)Cl)N(N=C2C)CC | InChI=1S/C21H20Cl3N5O.ClH/c1-3-29-21-19(13(2)27-29)20(24)14(9-26-21)11-30-18(10-28-7-6-25-12-28)16-5-4-15(22)8-17(16)23;/h4-9,12,18H,3,10-11H2,1-2H3;1H
